US06323230B1
(a) 2-BENZOYLOXYMETHYL BENZOIC ACID
TLC: toluene:ethyl acetate: acetic acid, 5:5:0.1

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-BENZOYLOXYMETHYL BENZOIC ACID | C(C1=CC=CC=C1)(=O)OCC1=C(C(=O)O)C=CC=C1 | C15H12O4
